US06319702B1
According to example 82, 2.47 g of tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(triethylsilyl)benzyl)-4-morpholinecarboxylate was treated with 4.1 mL of TFA in 40 mL of CH2Cl2 for 3 h. Neutralization with 8 mL of Et3N and work-up in the usual manner gave a thick oil. Purification of the crude material by flash chromatography on 80 g of silica gel (85:15 hexane:EtOAc) afforded 1.70 g (83%) of (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(trimethylsilyl)benzyl)morpholine as a white crystalline solid, m.p. 94-95° C.

reactant | tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(triethylsilyl)benzyl)-4-morpholinecarboxylate | 2.47 g | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=CC=C1)[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C34H43NO4Si
reactant | TFA | 4.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3N | 8 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(trimethylsilyl)benzyl)morpholine | 1.70 g, 83% | O=C1O[C@@H]([C@@H](N[C@H]1CC1=CC(=CC=C1)[Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C26H29NO2Si
